US07265115B2
tert-butyl (1S,4S)-5-(3-quinolinyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate
tert-Butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate, prepared as described in (J. Med. Chem., (1988) 31, 1598-1611), and 3-bromoquinoline (purchased from the Aldrich Chemical Co.) were coupled according to the procedure described in Example 1A to provide the title compound.

reactant | tert-Butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | [C@@H]12N(C[C@@H](NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
reactant | 3-bromoquinoline | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
product | tert-butyl (1S,4S)-5-(3-quinolinyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | N1=CC(=CC2=CC=CC=C12)N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C | C19H23N3O2
